US07816557B2
Racemic 3-{4-[cyclohexyl-(4′-isopropyl-2,6-dimethyl-biphenyl-4-yloxy)-methyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 128 starting from 3-{4-[(4-bromo-3,5-dimethyl-phenoxy)-cyclohexyl-methyl]-benzoylamino}-propionic acid methyl ester and 4-isopropyl phenyl boronic acid. MS: 526.2 [M−H]−.

reactant | 3-{4-[(4-bromo-3,5-dimethyl-phenoxy)-cyclohexyl-methyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(C1CCCCC1)OC1=CC(=C(C(=C1)C)Br)C)=O)=O | C26H32BrNO4
reactant | 4-isopropyl phenyl boronic acid | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
product | Racemic 3-{4-[cyclohexyl-(4′-isopropyl-2,6-dimethyl-biphenyl-4-yloxy)-methyl]-benzoylamino}-propionic acid | C1(CCCCC1)C(C1=CC=C(C(=O)NCCC(=O)O)C=C1)OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(C)C)C | C34H41NO4
